US04478833
8-Benzylamino-2-(2-hydroxyethyl-amino)-4-(1,1-dioxidothiomorpholino)-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 2 from 8-benzylamino-2-chloro-4-(1,1-dioxido-thiomorpholino)pyrimido[5,4-d]pyrimidine (melting point: 213°-215° C.) and 2-hydroxyethyl-amine.

reactant | 8-benzylamino-2-chloro-4-(1,1-dioxido-thiomorpholino)pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)NC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)(=O)=O)Cl | C17H17ClN6O2S
reactant | 2-hydroxyethyl-amine | OCCN | C2H7NO
product | 8-Benzylamino-2-(2-hydroxyethyl-amino)-4-(1,1-dioxidothiomorpholino)-pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)NC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)(=O)=O)NCCO | C19H23N7O3S
